### PR TITLE
List Validators : get_messages functions and properties.

### PR DESCRIPTION
**Pull request by mcalancea**

### CODE REVIEW

File: Lib/ListExtras.v [hunk 1]
```diff
@@ -1162,3 +1162,63 @@ Proof.
   - subst. elim Hneq. reflexivity.
   - assumption.
 Qed.
+
+Check fold_right.
+
+Lemma union_fold
```
Comment (traiansf) [inline Lib/ListExtras.v:1168]: This looks a lot like `set_union_in_iterated` from `ListSetExtras.v`
In general, all set-related lemmas should go there.

**Review by traiansf — APPROVED** [review]
